US06664293B2
To a suspension of 1-amino-4-methylcyclohex-3-ene hydrochloride (103 mg) in dichloromethane (5 ml) were added in turn pyridine (0.14 ml), 4-pyridinecarbonyl chloride hydrochloride (0.124 g) and N,N-dimethylaminoyridine (0.11 g) at 0° C. The mixture was allowed to warm to ambient temperature and was allowed to stir for 1 hour. The reaction mixture was taken up into a mixture of water and ethyl acetate, and adjusted pH to 4.6. The separated organic layer was washed in turn with water and brine, and dried over magnesium sulfate. Evaporation under reduced pressure gave a residue, which was triturated with diisopropyl ether to give 1-(pyridin-4-ylcarbonylamino)-4-methylcyclohex-3-ene (46 mg).

reactant | 1-amino-4-methylcyclohex-3-ene hydrochloride | 103 mg | Cl.NC1CC=C(CC1)C
reactant | pyridine | 0.14 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-pyridinecarbonyl chloride hydrochloride | 0.124 g | Cl.N1=CC=C(C=C1)C(=O)Cl
reactant | water | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(pyridin-4-ylcarbonylamino)-4-methylcyclohex-3-ene | 46 mg | N1=CC=C(C=C1)C(=O)NC1CC=C(CC1)C | C13H16N2O
